US07435837B2
(±)-{[7-(2,6-dimethylphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.148 g, 65%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,6-dimethylphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.3 g, 0.70 mmol) and methylamine (0.22 g, 7.0 mmol). mp 175-178° C.

reactant | (±)-[7-(2,6-dimethylphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.70 mmol, 0.3 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2C)C)F | C24H23FO4S
reactant | methylamine | 7.0 mmol, 0.22 g | CN | CH5N
product | (±)-{[7-(2,6-dimethylphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | CC1=C(C(=CC=C1)C)C1=CC(=CC=2CC(OC21)CNC)F | C18H20FNO
